US09278964B2
Preparation of 1-(4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)phenyl)ethanone (C25)
To 1-(4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)phenyl)ethanol (C24) (8.80 g, 25.2 mmol) in dichloromethane (168 mL) and dimethyl sulfoxide (84 mL) was added triethylamine (17 mL) and stirred in an ice bath. Pyridine.sulfur trioxide (16.0 g, 101 mmol) was added in two portions. The reaction was warmed to room temperature over 3 hours, diluted with dichloromethane, and washed with water. The aqueous layer was extracted one additional time with dichloromethane. The combined dichloromethane layers were washed with water, dried over anhydrous sodium sulfate, filtered, and adsorbed onto silica gel. Purification by flash column chromatography using 0-100% ethyl acetate/hexanes as eluent provided the title compound as a white solid (6.71 g, 73%): mp 140-141.5° C.; 1H NMR (400 MHz, CDCl3) δ 8.61 (s, 1H), 8.33-8.27 (m, 2H), 8.11-8.05 (m, 2H), 7.85-7.78 (m, 2H), 7.41 (dd, J=9.0, 0.8 Hz, 2H), 2.66 (s, 3H); 19F NMR (376 MHz, CDCl3) δ −58.01; ESIMS m/z 348 ([M+H]+).

reactant | 1-(4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)phenyl)ethanol | 25.2 mmol, 8.80 g | FC(OC1=CC=C(C=C1)N1N=C(N=C1)C1=CC=C(C=C1)C(C)O)(F)F | C17H14F3N3O2
reactant | triethylamine | 17 mL | C(C)N(CC)CC | C6H15N
reactant | Pyridine | N1=CC=CC=C1 | C5H5N
reactant | sulfur trioxide | 101 mmol, 16.0 g | S(=O)(=O)=O | O3S
solvent | dichloromethane | 168 mL | ClCCl | CH2Cl2
solvent | dimethyl sulfoxide | 84 mL | CS(=O)C | C2H6OS
product | 1-(4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)phenyl)ethanone | 6.71 g, 73% | FC(OC1=CC=C(C=C1)N1N=C(N=C1)C1=CC=C(C=C1)C(C)=O)(F)F | C17H12F3N3O2
